US08134001B2
In a manner similar to the method described in Example 2, racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-Iodo-2-(tetrahydro-pyran-4-yloxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (1.3 g, 1.97 mmol) was reacted with trimethylsilyl acetylene (0.4 g, 3.94 mmol), CuI (0.75 g, 3.94 mmol), triethylamine (0.4 mL, 3.94 mmol) and dichlorobis(triphenylphosphine) palladium(0) (0.28 g, 0.39 mmol), then treated with aqueous NaOH solution in methanol to give racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-(tetrahydro-pyran-4-yloxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as an off white solid (Yield 0.62 g, 56%).

reactant | 6-chloro-4′-(3-chlorophenyl)-2′-[5-Iodo-2-(tetrahydro-pyran-4-yloxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.97 mmol, 1.3 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)OC1CCOCC1)=O | C29H25Cl2IN2O4
reactant | trimethylsilyl acetylene | 3.94 mmol, 0.4 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 3.94 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
catalyst | CuI | 3.94 mmol, 0.75 g | [Cu]I
product | 6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-(tetrahydro-pyran-4-yloxy)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C)OC1CCOCC1)=O | C31H26Cl2N2O4
